US06476030B1
b) Toluene-4-sulfonic Acid 7-(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yl Ester
To a solution of toluene-4-sulfonic acid 5-hydroxymethyl-1H-pyrazol-3-yl ester (25 g, 93 mmol) in chloroform (800 ml) was added manganese dioxide (40.3 g, 465 mmol) and the suspension was heated at 70° C. for 14 h. The reaction mixture was filtered through sand/silica and the plug of silica was then washed several times with 10% methanol/dichloromethane. The combined filtrates were concentrated under vacuum to give crude aldehyde (25 g). Some of the crude aldehyde (2 g, 7.6 mmol) and 2-fluorobenzoic hydrazide (1.16 g, 7.6 mmol) were suspended in xylene (60 ml) and heated together at reflux for 3 h. After cooling, the solid formed was collected by filtration and dried under vacuum at 80° C. to afford 2.7 g (94%) of the condensation product as a light brown solid. Some of this condensation product, which existed in nmr solution as a mixture of isomers (1 g, 2.5 mmol), was dissolved in Dowtherm A (100 ml) and heated at 180° C. for 72 h. The whole reaction solution was cooled and eluted through a silica gel column using 0 to 15% ethyl acetate/dichloromethane to give the title compound as a light tan solid (0.614 g, 64%); 1H NMR (360 MHz, CDCl3) δ 2.46 (3H, s), 6.73 (1H, s), 7.18-7.35 (4H, m), 7.61 (1H, m), 7.71 (1H, m), 7.82 (2H, d, J 8.3 Hz), 9.33 (1H, s).

reactant | toluene-4-sulfonic acid 5-hydroxymethyl-1H-pyrazol-3-yl ester | 93 mmol, 25 g | OCC1=CC(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C | C11H12N2O4S
reactant | 2-fluorobenzoic hydrazide | 7.6 mmol, 1.16 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | manganese dioxide | 465 mmol, 40.3 g | [O-2].[O-2].[Mn+4]
product | Toluene-4-sulfonic Acid 7-(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yl Ester | 2.7 g, 94% | FC1=C(C=CC=C1)C1=NN=CC=2N1N=C(C2)OS(=O)(=O)C2=CC=C(C=C2)C | C18H13FN4O3S
